US06570031B1
20 g (0.1 mol) of N,N-dimethylundecylamine were added in portions with stirring to 14.8 g (0.15 mol) of concentrated hydrochloric acid (37 wt. %). After the exothermic reaction (up to approx. 35° C.), the highly viscous mixture was diluted with 5 ml of concentrated hydrochloric acid and 5 ml of water, stirred for a further 2 hours and finally left to stand overnight. The aqueous phase was then extracted with 80 ml of methylene chloride, the organic phase dried with sodium sulfate and the solvent removed under a vacuum. In order to remove any traces of water, the residue was resuspended in 80 ml of toluene and concentrated under a vacuum and the operation was then repeated in 100 ml of hexane. Once the solvent had again been removed by distillation under a vacuum, N,N-dimethylundecylammonium hydrochloride was obtained as a colourless solid.

reactant | N,N-dimethylundecylamine | 0.1 mol, 20 g | CN(C)CCCCCCCCCCC | C13H29N
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | hydrochloric acid | 0.15 mol, 14.8 g | Cl | ClH
solvent | water | 5 ml | O | H2O
product | N,N-dimethylundecylammonium hydrochloride | Cl.C[NH+](C)CCCCCCCCCCC | InChI=1S/C13H29N.ClH/c1-4-5-6-7-8-9-10-11-12-13-14(2)3;/h4-13H2,1-3H3;1H/p+1
